US07220856B2
Preparation of 2-tert-Butoxycarbonylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
A solution of 7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylic acid (215 mg, 0.5 mmol), diphenylphosphoryl azide (DPPA, 144 μL, 0.65 mmol), and triethylamine (92 μL, 0.65 mmol) in t-butanol (5 mL) is heated at 105° C. in an Ar atmosphere for 3 h. The solvent is removed, and the residue is dissolved in EtOAc, washed with water, dried (MgSO4), and concentrated. Purification by column chromatography with CH2Cl2-MeOH affords the title product.

reactant | 7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylic acid | 0.5 mmol, 215 mg | ClC1=CC=C2C(=CC(=NC2=C1)C(=O)O)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C21H18ClFN4O3
reactant | diphenylphosphoryl azide | 0.65 mmol, 144 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.65 mmol, 92 μL | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | 2-tert-Butoxycarbonylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | C(C)(C)(C)OC(=O)NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F)Cl | C25H27ClFN5O3
